US06787543B2
To a solution of (2S)-2-ethoxycarbonylpiperazine-1-carboxylic acid 1-tert-butyl ester D-tartarate (9.56 g) in tetrahydrofuran (90 ml) and water (90 ml) was added sodium bicarbonate (7.87 g) under ice-cooling. Benzyl chloroformate (4.01 ml) was added dropwise to the solution over 2 minutes at the same temperature, and stirred at room temperature for 15 minutes. Ethyl acetate (60 ml) and sodium chloride (5 g) was added to the mixture. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure to give (2S)-2-ethoxycarbonylpiperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (10.4 g) as a colorless oil.

reactant | (2S)-2-ethoxycarbonylpiperazine-1-carboxylic acid 1-tert-butyl ester D-tartarate | 9.56 g | C([C@@H](O)[C@H](O)C(=O)O)(=O)O.C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)C(=O)OCC
reactant | sodium bicarbonate | 7.87 g | C([O-])(O)=O.[Na+]
reactant | Benzyl chloroformate | 4.01 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium chloride | 5 g | [Cl-].[Na+]
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | water | 90 ml | O | H2O
solvent | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-2-ethoxycarbonylpiperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 10.4 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C20H28N2O6
